US05015744
To a solution of 3.41 g (20.9 mmol) of cis-3-hydroxy-4-phenylazetidin-2-one in 15 mL of THF at 0° C. was added 5 mL of ethyl vinyl ether and 20 mg (0.2 mmol) of methane-sulfonic acid. The mixture was stirred at 0° C. for 20 min, diluted with 20 mL of saturated aqueous sodium bicarbonate, and extracted with three 40 mL portions of ethyl acetate. The combined ethyl acetate layers were dried over sodium sulfate and concentrated to give 4.87 g (99%) of cis-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one as a colorless oil.

reactant | cis-3-hydroxy-4-phenylazetidin-2-one | 20.9 mmol, 3.41 g | O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C9H9NO2
reactant | ethyl vinyl ether | 5 mL | C(=C)OCC | C4H8O
reactant | methane-sulfonic acid | 0.2 mmol, 20 mg | CS(=O)(=O)O | CH4O3S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
product | cis-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one | 4.87 g, 99% | C(C)OC(C)O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C13H17NO3
